US08034811B2
O-(3,5-Dimethyl-isoxazol-4-ylmethyl)-hydroxylamine hydrochloride
Prepared by a similar procedure as described for preparation 13. Starting materials: N-hydroxyphthalimide and 4-(chloromethyl)-3,5-dimethylisoxazole (Aldrich). 13C-NMR (DMSO-d6) δ 169.7, 159.6, 108.2, 64.4, 10.8, 9.5.

reactant | N-hydroxyphthalimide | ON1C(C=2C(C1=O)=CC=CC2)=O | C8H5NO3
reactant | 4-(chloromethyl)-3,5-dimethylisoxazole | ClCC=1C(=NOC1C)C | C6H8ClNO
product | O-(3,5-Dimethyl-isoxazol-4-ylmethyl)-hydroxylamine hydrochloride | Cl.CC1=NOC(=C1CON)C | InChI=1S/C6H10N2O2.ClH/c1-4-6(3-9-7)5(2)10-8-4;/h3,7H2,1-2H3;1H
